US08076345B2
B) 5-Chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A mixture of 5-chloro-2-(4-methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (4.15 g, 13.1 mmol), N,N-dimethylaniline (0.18 mL, 1.4 mmol), N,N-dimethylformamide (0.21 mL, 2.7 mmol) and acetonitrile (35 mL) was heated to dissolve at 105° C. Phosphoryl chloride (5.3 mL, 56 mmol) was added dropwise over 3 mins and the mixture was heated to reflux at 110° C. After another 20 hours refluxing, the reaction mixture was allowed to cool and poured over ice (200 g), and then 45% NaOH (75 mL) was added. The mixture was extracted with CH2Cl2 (3×200 mL). The combined organic layers were dried over sodium sulfate, and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc/hexane) to afford a yellow oil which became a solid in the freezer.

reactant | 5-chloro-2-(4-methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 13.1 mmol, 4.15 g | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2OC)CC1 | C15H13ClN4O
reactant | N,N-dimethylaniline | 1.4 mmol, 0.18 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | N,N-dimethylformamide | 2.7 mmol, 0.21 mL | CN(C=O)C | C3H7NO
reactant | Phosphoryl chloride | 56 mmol, 5.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 75 mL | [OH-].[Na+]
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 5-Chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
